US08048909B2
5-Bromo-1-{[3-(methylsulfonyl)phenyl]sulfonyl}-1H-pyrrole-3-carbaldehyde
Using {5-bromo-1-{[3-(methylsulfonyl)phenyl]sulfonyl}-1H-pyrrol-3-yl}methanol (4.88 g) and sulfur trioxide.pyridine complex (2.19 g), a procedure as in Reference Example 191 was performed to give the title compound as a white solid (yield 2.80 g, 58%).

reactant | {5-bromo-1-{[3-(methylsulfonyl)phenyl]sulfonyl}-1H-pyrrol-3-yl}methanol | 4.88 g | BrC1=CC(=CN1S(=O)(=O)C1=CC(=CC=C1)S(=O)(=O)C)CO | C12H12BrNO5S2
reactant | sulfur trioxide | S(=O)(=O)=O | O3S
product | 5-Bromo-1-{[3-(methylsulfonyl)phenyl]sulfonyl}-1H-pyrrole-3-carbaldehyde | yield 2.80 g, 58% | BrC1=CC(=CN1S(=O)(=O)C1=CC(=CC=C1)S(=O)(=O)C)C=O | C12H10BrNO5S2
